US04418079
To a solution of 1-phenylpropargyl alcohol (119.12 g) in dioxane (650 ml), a solution of diethylamine (99.2 g) in water (300 ml), a solution of 37% formalin (148.9 g) in dioxane (200 ml) and a solution of cupric sulfate (pentahydrate) (8.11 g) in water (180 ml) were added with stirring at room temperature. The resulting mixture was stirred at about 70° C. for 2 hours and then filtered off, and the filtrate was evaporated under reduced pressure. The residual oily material was dissolved in benzene (450 ml) and extracted with three 300 ml portions of 5% aqueous solution of hydrochloric acid, and the extracts were combined together and washed with benzene (300 ml). The washed extract was neutralized with an aqueous solution of sodium hydroxide and extracted with three 400 ml portions of chloroform, and the extracts were washed with water (500 ml) and dried over sodium sulfate. The chloroform-extracts were evaporated and then distilled to afford N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine, b.p., 134°-137° C./0.12 mmHg.

reactant | 1-phenylpropargyl alcohol | 119.12 g | C#CC(C1=CC=CC=C1)O | C9H8O
reactant | diethylamine | 99.2 g | C(C)NCC | C4H11N
reactant | formalin | 148.9 g | C=O | CH2O
solvent | dioxane | 650 ml | O1CCOCC1 | C4H8O2
solvent | water | 300 ml | O | H2O
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | water | 180 ml | O | H2O
product | N-(4-phenyl-4-hydroxy-2-butynyl)-N,N-diethylamine | C1(=CC=CC=C1)C(C#CCN(CC)CC)O | C14H19NO
